US05576322
4-(3,4-Methylenedioxybenzyl)amino-6-cyanoquinazoline
15 ml of isopropyl alcohol, 75 mg of triethylamine and 125 mg of piperonylamine were added to 140 mg of 4-chloro-6-cyanoquinazoline. The obtained mixture was heated under reflux for 5 hours and filtered to recover a precipitate. This precipitate was introduced to a silica gel column, followed by eluting with ethyl acetate to give 200 mg of the title compound.

reactant | isopropyl alcohol | 15 ml | C(C)(C)O | C3H8O
reactant | piperonylamine | 125 mg | C(C1=CC=2OCOC2C=C1)N | C8H9NO2
reactant | 4-chloro-6-cyanoquinazoline | 140 mg | ClC1=NC=NC2=CC=C(C=C12)C#N | C9H4ClN3
solvent | triethylamine | 75 mg | C(C)N(CC)CC | C6H15N
product | 4-(3,4-Methylenedioxybenzyl)amino-6-cyanoquinazoline | 200 mg | C1OC=2C=C(CNC3=NC=NC4=CC=C(C=C34)C#N)C=CC2O1 | C17H12N4O2
